US07381728B2
Step 1: 2-Chloro-5-iodoaniline
To 1-chloro-4-iodo-2-nitrobenzene (1.27 g, 4.49 mmol) in methanol (20 ml) was added iron powder (1.25 g, 22 mmol) and the reaction heated to 50° C. A solution of ammonium chloride (1.92 g, 36 mmol) in water (10 ml) was added slowly and the reaction heated to 70° C. overnight. Reaction was cooled, filtered through celite, washed with methanol and solvent reduced in vacuo. The residue was purified by chromatography on silica gel (gradient of hexane to 10% ethyl acetate in hexane) to afford the title compound. MS (ES+) m/e 254 [M+H]+.

reactant | 1-chloro-4-iodo-2-nitrobenzene | 4.49 mmol, 1.27 g | ClC1=C(C=C(C=C1)I)[N+](=O)[O-] | C6H3ClINO2
reactant | ammonium chloride | 36 mmol, 1.92 g | [Cl-].[NH4+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
catalyst | iron | 22 mmol, 1.25 g | [Fe] | Fe
product | 2-Chloro-5-iodoaniline | ClC1=C(N)C=C(C=C1)I | C6H5ClIN
